US04547510
E-8-(3,4-Diacetoxybenzylidene)-5,6,7,8-tetrahydro-3-methylquinoline
A mixture of 5,6,7,8-tetrahydro-3-methylquinoline (20 ml), 3,4-dihydroxybenzaldehyde (20 g) and acetic anhydride (50 ml) was heated at 100° for 48 hours. Further acetic anhydride (50 ml) and ZnCl2 (1 g) were added and the mixture was heated at reflux for 16 hours. The solvent was removed by evaporation, the residue was neutralised (Na2CO3) in the presence of ethyl acetate and extracted with ethyl acetate. The ethyl acetate solution was extracted with 2N HCl and this extract was washed with ethyl acetate, basified (Na2CO3) and extracted with Et2O. The ether solution was dried (MgSO4) and evaporated and the residue triturated with hexane and recrystallised from di-isopropyl ether to give the title compound (22 g) m.p. 100°-1° C.

reactant | 5,6,7,8-tetrahydro-3-methylquinoline | 20 ml | CC=1C=NC=2CCCCC2C1 | C10H13N
reactant | 3,4-dihydroxybenzaldehyde | 20 g | OC=1C=C(C=O)C=CC1O | C7H6O3
catalyst | ZnCl2 | 1 g | [Cl-].[Cl-].[Zn+2]
solvent | acetic anhydride | 50 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic anhydride | 50 ml | C(C)(=O)OC(C)=O | C4H6O3
product | E-8-(3,4-Diacetoxybenzylidene)-5,6,7,8-tetrahydro-3-methylquinoline | 22 g | C(C)(=O)OC=1C=C(\C=C\2/CCCC=3C=C(C=NC23)C)C=CC1OC(C)=O | C21H21NO4
